US07528274B2
Synthesis of N-[2-(iso-Butyloxycarbonylthio)benzoyl]-L-alaninamide
To a solution of N-(2-mercaptobenzoyl)-L-alaninamide (0.22 g, 1.00 mmol) in DMA (5 ml) was added iso-butyl chloroformate (0.2 g, 1.50 mmol), and the mixture was stirred for 8 h. The solvent was evaporated to dryness, and the residue was triturated with ethyl ether (25 ml). The precipitate obtained was filtered, washed with water and dried over CaCl2. Yield, 73%. The product was further purified by column chromatography on silica using chloroform-methanol (7:3 v/v) as eluent with 82% recovery. 1H NMR (DMSO-d6): 0.94(d, 6H, 2CH3), 1.34(d, 3H, CH3), 1.96(m, 1H, CH), 4.06(d, 2H, CH2), 4.44quintet, 1H, CH), 7.16(brs, 1H, NH2), 7.38(brs, 1H, NH2), 7.54-7.80(m, 4H, Ar—H), 8.42(d, 1H, NH).

reactant | N-(2-mercaptobenzoyl)-L-alaninamide | 1.00 mmol, 0.22 g | SC1=C(C(=O)NC([C@@H](N)C)=O)C=CC=C1 | C10H12N2O2S
reactant | iso-butyl chloroformate | 1.50 mmol, 0.2 g | ClC(=O)OCC(C)C | C5H9ClO2
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
product | N-[2-(iso-Butyloxycarbonylthio)benzoyl]-L-alaninamide | C(C(C)C)OC(=O)SC1=C(C(=O)NC([C@@H](N)C)=O)C=CC=C1 | C15H20N2O4S
